US07214673B2
(S)-2-(2-(2-methoxy-phenyl)-ethyl)-piperazine
Combine (S)-1,4-dibenzyl-2-(2-(2-methoxy-phenyl)-ethyl)-piperazine (2.10 g, 5.24 mmol), ammonium formate (1.65 g, 26.19 mmol), 5% Pd/C (253.6 mg), and ethanol (100 mL). Stir and heat the mixture at reflux. After 3 hours, cool to ambient temperature and remove the catalyst by vacuum filtration through celite. Reduce the filtrate to residue and purify it on silica gel using dichloromethane/2N ammonia in methanol (80:20) to give (1.00 g, 87%) of the title compound: mass spectrum (ion spray): m/z=221.1 (M+1).

reactant | (S)-1,4-dibenzyl-2-(2-(2-methoxy-phenyl)-ethyl)-piperazine | 5.24 mmol, 2.10 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=C(C=CC=C1)OC | C27H32N2O
reactant | ammonium formate | 26.19 mmol, 1.65 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 253.6 mg | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (S)-2-(2-(2-methoxy-phenyl)-ethyl)-piperazine | 1.00 g, 87% | COC1=C(C=CC=C1)CC[C@@H]1NCCNC1 | C13H20N2O
